US06903227B2
An 8-L hydrogenation reactor equipped with a stirrer, temperature probes, and a heating and cooling system was charged under nitrogen with 125 g of 10% palladium on carbon, 300 g of powdered 3 Å molecular sieves, 1050 g of 6-nitrocoumarin, 1318 g of di-tert-butyldicarbonate, and 4.0 L of anhydrous tetrahydrofuran. The reactor was purged 5 times with nitrogen and then 5 times with hydrogen. The pressure of hydrogen was maintained at 30 psi until the end of the exotherm (30° C.<T<50° C.), then the reactor was heated to about 50° C., and the hydrogen pressure increased to 60 psi. The reaction was complete in about 15 h by TLC. The reaction mixture was cooled to room temperature and purged 3 times with nitrogen before it was discharged from the reactor. The catalyst and molecular sieves were removed by filtration through Celite and the filter cake was washed with 1.0 L of tetrahydrofuran. The filtrate was concentrated to dryness at 50° C. under reduced pressure to give an off-white crude product. Recrystallization from 3.6 L of toluene afforded 1300 g of 6-(tert-butyloxycarbonylamino)chroman-2-one. The mother liquor was concentrated to afford an additional 47 g of the product (93.1% overall yield).

reactant | 6-nitrocoumarin | 1050 g | [N+](=O)([O-])C=1C=C2C=CC(OC2=CC1)=O | C9H5NO4
reactant | di-tert-butyldicarbonate | 1318 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 125 g | [Pd] | Pd
solvent | tetrahydrofuran | 4.0 L | O1CCCC1 | C4H8O
product | 6-(tert-butyloxycarbonylamino)chroman-2-one | 1300 g | C(C)(C)(C)OC(=O)NC=1C=C2CCC(OC2=CC1)=O | C14H17NO4
